US09193707B2
5. Synthesis of 2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylic acid
Into a 250-mL 3-necked round-bottom flask, was placed methyl 2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylate (1.7 g, 4.80 mmol, 1.00 equiv), methanol (10 mL) and sodium hydroxide (20%, 10 mL). The resulting solution was stirred for 30 min at 75° C. The pH value of the solution was adjusted to 2 with hydrogen chloride (1 mol/L). The resulting solution was extracted with 2×50 mL of dichloromethane and the organic layers combined. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 0.8 g (49%) of 2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylic acid as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 3.99 (s, 3H), 4.06 (s, 6H), 7.77-7.81 (m, 1H), 7.84 (s, 2H), 8.03-8.07 (m, 1H), 8.22 (d, 1H), 9.41 (d, 1H); MS (ESI) m/z 341 ([M+H]+).

reactant | methyl 2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylate | 4.80 mmol, 1.7 g, 1.00 equiv | COC=1C=C(C=C(C1OC)OC)C1=NC2=CC=CC=C2C(=N1)C(=O)OC | C19H18N2O5
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
reactant | hydrogen chloride | 1 mol/L | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylic acid | COC=1C=C(C=C(C1OC)OC)C1=NC2=CC=CC=C2C(=N1)C(=O)O | C18H16N2O5
